US04345084
A mixture of 2-[(methylsulfonyl)oxy]-5-hexynenitrile (7.7 g, 41.1 mmol) and dry potassium fluoride (3.57 g, 61.4 mmol) in 10 ml of dry diethylene glycol was heated with vigorous stirring, at 135° C. under argon for 2 h. The resulting black reaction mixture was taken into 50 ml of water and extracted with ether (3×25 ml). The combined ether extracts were washed with water and then treated with a solution of potassium hydroxide (2.3 g, 61.4 mmol) in 15 ml of water. The resulting mixture was heated with stirring, at 65° C. (bath) for 2.0 h. The ether was distilled off at one atmosphere, and the aqueous solution was cooled to about 25° C., diluted with 50 ml of ice-water, and extracted with ether (3×50 ml). The ether extracts were combined and extracted with 2×50 ml in NaOH solution. The combined NaOH solution was cooled to 0° C. and then acidified to pH 2.5 with cold 3 N H2SO4 solution. The resulting acidic aqueous phase was extracted with three times ether. The ether extracts were combined, washed with water, and dried (MgSO4). Concentration of ether at 40° C./~±mm, and evaporative distillation of the resulting crude product at 130°/10 mmHg afforded 1.75 g (33% by weight yield) of 2-fluoro-5-hexynoic acid as a colorless liquid which solidified on cooling to a temperature of -10° C. to -20° C. as a white solid.

reactant | 2-[(methylsulfonyl)oxy]-5-hexynenitrile | 41.1 mmol, 7.7 g | CS(=O)(=O)OC(C#N)CCC#C | C7H9NO3S
reactant | potassium fluoride | 61.4 mmol, 3.57 g | [F-].[K+]
reactant | potassium hydroxide | 61.4 mmol, 2.3 g | [OH-].[K+]
reactant | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
solvent | water | 15 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-fluoro-5-hexynoic acid | 1.75 g | FC(C(=O)O)CCC#C | C6H7FO2
